US07713979B2
3-(2,4-Dichloro-benzyl)-1-(cis-4-hydroxymethyl-cyclohexyl)-pyrrolidin-2-one
Dissolve 1-[cis-4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one (Preparation 37) (0.12 g, 0.25 mmol) in THF (50 mL) and add TBAF (0.50 mL, 1.0 M in THF) at room temperature under nitrogen. Stir the solution overnight. Then add water (50 mL) and extract the aqueous layer with dichloromethane (3×100 mL). Combine the organic layers and dry with Na2SO4, filter, concentrate and purify by flash column chromatography (silica gel, 50-80% EtOAc-Hexane) to give 0.085 g (95%) of the title compound as a white solid: Mass spectrum (ion spray): m/z=356.2, 358.2 (M+1).

reactant | 1-[cis-4-(tert-butyl-dimethyl-silanyloxymethyl)-cyclohexyl]-3-(2,4-dichloro-benzyl)-pyrrolidin-2-one | 0.25 mmol, 0.12 g | C(C)(C)(C)[SiH2]OC([C@H]1CC[C@H](CC1)N1C(C(CC1)CC1=C(C=C(C=C1)Cl)Cl)=O)(C)C | C24H37Cl2NO2Si
reactant | TBAF | 1.0 M, 0.50 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2,4-Dichloro-benzyl)-1-(cis-4-hydroxymethyl-cyclohexyl)-pyrrolidin-2-one | 0.085 g, 95% | ClC1=C(CC2C(N(CC2)[C@@H]2CC[C@@H](CC2)CO)=O)C=CC(=C1)Cl | C18H23Cl2NO2
